US05250522
(S)-2-(t-butoxycarbonylamino-3-(biphenyl-4-yl)-propionic acid methyl ester (4.1 g, 11.5 mmol) is dissolved at room temperature in methanolic 1N sodium hydroxide (60 mL). The solution is stirred for 3 hours. Ether (30 mL) and water (30 mL) are added. The aqueous layer is separated and acidified with concentrated hydrochloric acid, then extracted with ether (2×20 mL) and dried over anhydrous sodium sulfate. Evaporation of the solvent under reduced pressure gives (S)-2-(t-butoxycarbonylamino)-3-(biphenyl-4-yl)-propionic acid as a white solid, m.p. 122°-123°.

reactant | t-butoxycarbonylamino-3-(biphenyl-4-yl)-propionic acid methyl ester | 11.5 mmol, 4.1 g | COC(C(CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C21H25NO4
reactant | Ether | 30 mL | CCOCC | C4H10O
reactant | water | 30 mL | O | H2O
solvent | sodium hydroxide | 1N, 60 mL | [OH-].[Na+]
product | (S)-2-(t-butoxycarbonylamino)-3-(biphenyl-4-yl)-propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C20H23NO4
